US08455500B2
<Step 1> Synthesis of 2,3-dihydrobenzofuran-3-ol
To a mixed solution of 2,3-dihydrobenzofuran-3-one (1.0 g) in methanol (10 mL)-tetrahydrofuran (10 mL), sodium borohydride (0.28 g) was added under ice-cooling and the resultant reaction mixture was stirred at room temperature for 1 hour. To the reaction mixture, water was added and the resultant reaction mixture was extracted with ethyl acetate. The organic phase was washed with a saturated saline and was dried over anhydrous sodium sulfate. From the organic phase, the solvent was distilled off under reduced pressure and the resultant residue was purified by silica gel column chromatography (eluate: n-hexane:ethyl acetate=100:00 to 85:15) to obtain the subject compound (0.87 g) as a yellow oil.

reactant | 2,3-dihydrobenzofuran-3-one | 1.0 g | O1CC(C2=C1C=CC=C2)=O | C8H6O2
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | sodium borohydride | 0.28 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | 2,3-dihydrobenzofuran-3-ol | 0.87 g | O1CC(C2=C1C=CC=C2)O | C8H8O2
